US05189054
Preparation of 3-[(4-Nitrophenacyl)amino]-2-carboxy-4,6-dichloroindole
Mix 3-[(4-nitrophenacyl)amino]-2-carbethoxy-4,6-dichloroindole (161 mg, 0.381 mmol), tetrahydrofuan (20 ml) and water (20 mL). Add lithium hydroxide monohydrate (64 mg, 1.52 mmol) and stir overnight. Heat at reflux for 4 hours, cool to room temperature and pour onto 1N hydrochloric acid (100 mL). Collect the resulting solid by filtration and air dry to give the title compound (148 mg, 99%); mp 270°-72° C.

reactant | 3-[(4-nitrophenacyl)amino]-2-carbethoxy-4,6-dichloroindole | 0.381 mmol, 161 mg | [N+](=O)([O-])C1=CC=C(C(CNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)OCC)=O)C=C1 | C19H15Cl2N3O5
reactant | lithium hydroxide monohydrate | 1.52 mmol, 64 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N, 100 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
product | 3-[(4-Nitrophenacyl)amino]-2-carboxy-4,6-dichloroindole | 148 mg, 99% | [N+](=O)([O-])C1=CC=C(C(CNC2=C(NC3=CC(=CC(=C23)Cl)Cl)C(=O)O)=O)C=C1 | C17H11Cl2N3O5
